US09085555B2
3-Acetyl-1-{2-[(1R,3S,5R)-3-(3-chloro-2-fluoro-benzylcarbamoyl)-2-aza-bicyclo[3.1.0]hex-2-yl]-2-oxo-ethyl}-1H-indole-7-carboxylic acid
To a solution of 3-acetyl-1-{2-[(1R,3S,5R)-3-(3-chloro-2-fluoro-benzylcarbamoyl)-2-aza-bicyclo[3.1.0]hex-2-yl]-2-oxo-ethyl}-1H-indole-7-carboxylic acid methyl ester Example 541 (110 mg, 0.209 mmol) in THF (3 mL) and water (0.3 mL) was added 2N LiOH (1.05 mL, 2.09 mmol). Stirring of the reaction mixture was continued at RT for 18 h. A 1N HCl solution was added to adjust to pH=2-3 and the resulting aqueous suspension was filtered. The solid was washed with water then dried in vacuo. The residue was purified by preparative HPLC (Waters Sunfire, C18-ODB, 5 μm, 30×100 mm, flow: 40 mL/min, eluent: 20-100% CH3CN/H2O/20 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA) to afford after lyophilization of the purified fractions the title compound as a white solid. MS (LC/MS): 512 [M+H]+; tR (HPLC conditions k): 3.34 min.

reactant | 3-acetyl-1-{2-[(1R,3S,5R)-3-(3-chloro-2-fluoro-benzylcarbamoyl)-2-aza-bicyclo[3.1.0]hex-2-yl]-2-oxo-ethyl}-1H-indole-7-carboxylic acid methyl ester | COC(=O)C=1C=CC=C2C(=CN(C12)CC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C(NCC1=C(C(=CC=C1)Cl)F)=O)C(C)=O | C27H25ClFN3O5
reactant | LiOH | 2.09 mmol, 2N, 1.05 mL | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 0.3 mL | O | H2O
product | 3-Acetyl-1-{2-[(1R,3S,5R)-3-(3-chloro-2-fluoro-benzylcarbamoyl)-2-aza-bicyclo[3.1.0]hex-2-yl]-2-oxo-ethyl}-1H-indole-7-carboxylic acid | C(C)(=O)C1=CN(C2=C(C=CC=C12)C(=O)O)CC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C(NCC1=C(C(=CC=C1)Cl)F)=O | C26H23ClFN3O5
